US07244729B2
Step 108.1: [4-(4-Chloro-7H-Pyrrolo[2,3-d]pyrimidin-6-yl)-phenyl]-methanol
To a suspension of 30.0 g (100 mmol) 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-benzoic acid ethyl ester (WO 97/02266) in 450 ml dry THF at 10° C. under N2-atmosphere, 500 ml diisobutyl-aluminium hydride (1 M in THF) were added dropwise. The resulting clear solution is stirred for 1 h and then diluted with 2.1 l of dry THF. Then 98 ml of ethyl acetate are added, followed after 15 min by 45 ml of water and after 1 h by 22.5 ml of 4 N sodium hydroxide. After 1 h stirring, 200 g of Na2SO4 are added and stirring is continued for another hour. The mixture is filtered through Celite (Fluka, Buchs, Switzerland), the residue washed with THF and discarded. Concentration of the filtrate to a volume of ≈0.1 l, addition of 0.3 l of dichloromethane and filtration yields the title compound; Analysis for C13H10ClN3O: calc. C 60.13%, H, 3.88%, N, 16.18%, Cl 13.65%; found C, 60.23%, H 4.03%, N 16.51%, Cl 13.28%.

reactant | 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-benzoic acid ethyl ester | 100 mmol, 30.0 g | C(C)OC(C1=CC=C(C=C1)C1=CC2=C(N=CN=C2Cl)N1)=O | C15H12ClN3O2
reactant | diisobutyl-aluminium hydride | 1 M, 500 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium hydroxide | 4 N, 22.5 ml | [OH-].[Na+]
reactant | Na2SO4 | 200 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | THF | 450 ml | C1CCOC1 | C4H8O
solvent | THF | 2.1 l | C1CCOC1 | C4H8O
solvent | water | 45 ml | O | H2O
solvent | ethyl acetate | 98 ml | C(C)(=O)OCC | C4H8O2
product | [4-(4-Chloro-7H-Pyrrolo[2,3-d]pyrimidin-6-yl)-phenyl]-methanol | ClC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)CO | C13H10ClN3O
